US07037938B2
To a solution of N-benzyl-N-[2-(4-bromophenyl)ethyl]-carbamate (1.3 g) in 1,2-dimethoxyethane (20 ml) was added [4-(methoxycarbonyl)-2-methylphenyl]boronic acid (792 mg), tetrakis(triphenylphosphine)palladium (360 mg) and aqueous solution of sodium carbonate (2M, 4.1 ml), and the mixture was stirred at 80° C. for 2 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 4′-[2-[[(benzyloxy)carbonyl]amino]ethyl]-2-methyl-1,1′-biphenyl-4-carboxylate (660 mg).

reactant | N-benzyl-N-[2-(4-bromophenyl)ethyl]-carbamate | 1.3 g | C(C1=CC=CC=C1)N(C([O-])=O)CCC1=CC=C(C=C1)Br
reactant | [4-(methoxycarbonyl)-2-methylphenyl]boronic acid | 792 mg | COC(=O)C1=CC(=C(C=C1)B(O)O)C | C9H11BO4
reactant | sodium carbonate | 2M, 4.1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 360 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4′-[2-[[(benzyloxy)carbonyl]amino]ethyl]-2-methyl-1,1′-biphenyl-4-carboxylate | 660 mg | C(C1=CC=CC=C1)OC(=O)NCCC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C | C25H25NO4
